US04579584
N-(2-Difluoromethoxyphenyl-sulfonyl)-N'-(4-dimethylamino-6-methoxy-1,3,5-triazin-2-yl)-urea
3.0 g of dimethylamine are introduced at 20°-30° C., with cooling, into a solution of 8.2 g of N-(2-difluoromethoxyphenyl-sulfonyl)-N'-(4-chloro-6-methoxy-1,3,5-triazin-2-yl)-urea in 80 ml of dioxane. After the formed suspension has been stirred for a further 30 minutes, it is taken up in 500 ml of 0.1N hydrochloric acid, and the product which has precipitated is separated by filtration; yield: 7.7 g of N-(2-difluoromethoxyphenyl-sulfonyl)-N'-(4-dimethylamino-6-methoxy-1,3,5-triazin-2-yl)-urea, m.p. 171°-172° C.

reactant | dimethylamine | 3.0 g | CNC | C2H7N
reactant | N-(2-difluoromethoxyphenyl-sulfonyl)-N'-(4-chloro-6-methoxy-1,3,5-triazin-2-yl)-urea | 8.2 g | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)Cl)OC)F | C12H10ClF2N5O5S
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 0.1N, 500 ml | Cl | ClH
product | N-(2-Difluoromethoxyphenyl-sulfonyl)-N'-(4-dimethylamino-6-methoxy-1,3,5-triazin-2-yl)-urea | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)N(C)C)OC)F | C14H16F2N6O5S
